US05863626
Nocceler TT:
Nocceler DM: dibenzothiazyl disulfide (vulcanization accelerator) manufactured by Ohuchi Shinko Kagaku Kogyo Co., Ltd.

reactant | Nocceler | CCN(CC)C(=S)SSC(=S)N(CC)CC | C10H20N2S4
reactant | dibenzothiazyl disulfide | C1=CC=C2C(=C1)N=C(S2)SSC3=NC4=CC=CC=C4S3 | C14H8N2S4
product | Nocceler TT | CN(C)C(=S)SSC(=S)N(C)C | C6H12N2S4
